US04031226
A mixture of 4.5 parts of N--{2-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]ethyl}-4-fluoro-2-nitrobenzamide, 40 parts of methanol and 90 parts of tetrahydrofuran is hydrogenated at normal pressure and at room temperature with 2 parts of Raney-nickel catalyst. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is converted into the hydrochloride salt in 2-propanol. The salt is filtered off and dried, yielding 2 parts of 2-amino-N-{2-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]ethyl}-4-fluorobenzamide dihydrochloride; mp. 210.7° C.

reactant | N--{2-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]ethyl}-4-fluoro-2-nitrobenzamide | ClC1=CC=C(C=C1)C1(CCN(CC1)CCNC(C1=C(C=C(C=C1)F)[N+](=O)[O-])=O)O | C20H21ClFN3O4
reactant | methanol | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-amino-N-{2-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]ethyl}-4-fluorobenzamide dihydrochloride | Cl.Cl.NC1=C(C(=O)NCCN2CCC(CC2)(O)C2=CC=C(C=C2)Cl)C=CC(=C1)F | InChI=1S/C20H23ClFN3O2.2ClH/c21-15-3-1-14(2-4-15)20(27)7-10-25(11-8-20)12-9-24-19(26)17-6-5-16(22)13-18(17)23;;/h1-6,13,27H,7-12,23H2,(H,24,26);2*1H
